US08476434B2
Synthesis of N-(2,4-dimethyl-3-(3-(pyrimidin-4-yl)pyridin-2-yloxy)phenyl)-3-(trifluoromethyl)benzamide
Dissolved 2,4-dimethyl-3-(3-(pyrimidin-4-yl)pyridin-2-yloxy)benzenamine (100 mg, 0.342 mmol) in dichloromethane (1.0 mL), added 3-(trifluoromethyl)benzoyl chloride (107 mg, 0.513 mmol) and triethylamine (0.12 mL). Stirred at ambient temp for 4 hours and then concentrated and purified by reverse-phase HPLC (Gilson, acidic mobile phase) to yield the title compound. MS m/z=465 (M+H)+. Calc'd for C25H19F3N4O2: 464.45.

reactant | 2,4-dimethyl-3-(3-(pyrimidin-4-yl)pyridin-2-yloxy)benzenamine | 0.342 mmol, 100 mg | CC1=C(C=CC(=C1OC1=NC=CC=C1C1=NC=NC=C1)C)N | C17H16N4O
reactant | 3-(trifluoromethyl)benzoyl chloride | 0.513 mmol, 107 mg | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
reactant | triethylamine | 0.12 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
product | N-(2,4-dimethyl-3-(3-(pyrimidin-4-yl)pyridin-2-yloxy)phenyl)-3-(trifluoromethyl)benzamide | CC1=C(C=CC(=C1OC1=NC=CC=C1C1=NC=NC=C1)C)NC(C1=CC(=CC=C1)C(F)(F)F)=O | C25H19F3N4O2
